US08871753B2
Step A: tert-Butyl [6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]carbamate
To a solution of 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene-11-carboxylic acid (9.2 mg, 25.1 μmol) in tert-butyl alcohol (0.16 mL) was added triethylamine (3.5 μL, 25.1 μmol) and diphenylphosphonic azide (5.4 μL, 25.1 μmol). The resulting mixture was heated at 85° C. overnight. The reaction mixture was diluted with DMSO and purified with preparative LCMS to give the desired product (6 mg, 55%). 1H NMR (400 MHz, DMSO-d6): δ 9.33 (s, 1H), 9.22 (s, 1H), 8.09 (s, 1H), 7.92 (s, 1H), 7.31 (m, 2H), 7.08 (t, 1H), 7.03 (s, 1H), 6.88 (dd, 1H), 6.80 (dd, 1H), 2.80 (d, 4H), 1.46 (s, 9H). LCMS calculated for C23H25ClN5O2(M+H)+: m/z=438.2.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene-11-carboxylic acid | 25.1 μmol, 9.2 mg | ClC=1C=NC=2NC=3C=CC=C(CCC4=CC(=CC(NC1N2)=C4)C(=O)O)C3 | C19H15ClN4O2
reactant | triethylamine | 25.1 μmol, 3.5 μL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 25.1 μmol, 5.4 μL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | tert-butyl alcohol | 0.16 mL | C(C)(C)(C)O | C4H10O
solvent | DMSO | CS(=O)C | C2H6OS
product | tert-Butyl [6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]carbamate | 6 mg, 55% | ClC=1C=NC=2NC=3C=CC=C(CCC4=CC(=CC(NC1N2)=C4)NC(OC(C)(C)C)=O)C3 | C23H24ClN5O2
